US06777155B2
In 90 ml tetrahydrofuran, 48.1 g of cis-1,2-cyclohexanedicarboxylic anhydride, 46.3 g of the (1,4,4-trimethyl-3,5-dioxyanyl)methane-1-ol prepared in Synthesis Example 1 and 1.8 g of 4-(dimethylamino)pyridine were dissolved, and the resulting mixture was refluxed for 6 hours under heating. After the elimination of the tetrahydrofuran by distillation, the mixture was subjected to silica gel column chromatography to yield 54.7 g of 2-((1,4,4-trimethyl-3,5-dioxanyl) methyl) oxycarbonyl) cyclohexanecarboxylic acid.

reactant | cis-1,2-cyclohexanedicarboxylic anhydride | 48.1 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 1.8 g | CN(C1=CC=NC=C1)C | C7H10N2
product | cyclohexanecarboxylic acid | C1(CCCCC1)C(=O)O | C7H12O2
